US05389633
Production of 6-(2,2-diethyl-3-sulfamoyl-1-propoxy)-2,8-dimethyl[1,2,4]triazolo[1,5-b]pyridazine
Using 3-(N,N-dimethylaminomethylene)aminosulfonyl-2,2-diethyl-1-propanol and 6-chloro-2,8-dimethyl[1,2,4]triazolo[1,5-b]pyridazine, the same reaction as in Example 6 was conducted to produce the title compound. m.p. 159°-160° C.

reactant | 3-(N,N-dimethylaminomethylene)aminosulfonyl-2,2-diethyl-1-propanol | CN(C)C=NS(=O)(=O)CC(CO)(CC)CC | C10H22N2O3S
reactant | 6-chloro-2,8-dimethyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C=C(C=2N(N1)N=C(N2)C)C | C7H7ClN4
product | 6-(2,2-diethyl-3-sulfamoyl-1-propoxy)-2,8-dimethyl[1,2,4]triazolo[1,5-b]pyridazine | C(C)C(COC=1C=C(C=2N(N1)N=C(N2)C)C)(CS(N)(=O)=O)CC | C14H23N5O3S
